US04891372
7-Methanesulphonamido-3-tertiary-butoxycarbonyl-1,2,4,5-tetrahydro-3H-3-benzazepine
Methanesulphonyl chloride (0.56 ml) was added dropwise to a solution of 7-amino-3-tertiary-butoxycarbonyl-1,2,4,5-tetrahydro-3H-3-benzazepine (1.9 g) in pyridine (40 ml) cooled to 0°. Stirring was continued at room temperature for 18 hours. The solvent was removed by evaporation to give an oil which was taken up in methylene chloride, washed three times with aqueous sodium bicarbonate and three times with brine, then dried (Na2SO4) and evaporated in vacuo. The residue was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 5%). The product-containing fractions were combined and evaporated in vacuo to give a semi-solid which was triturated with ether to give the title compound, yield 1.2 g, m.p. 153°-154°.

reactant | Methanesulphonyl chloride | 0.56 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-amino-3-tertiary-butoxycarbonyl-1,2,4,5-tetrahydro-3H-3-benzazepine | 1.9 g | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C15H22N2O2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Methanesulphonamido-3-tertiary-butoxycarbonyl-1,2,4,5-tetrahydro-3H-3-benzazepine | CS(=O)(=O)NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O4S
